US08859549B2
4-(3,6-dihydro-2H-pyran-4-yl)phthalazin-1(2H)-one
A mixture of 4-chlorophthalazin-1(2H)-one (150 mg, 0.831 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (174 mg, 0.831 mmol), Na2CO3 (164 mg, 2.49 mmol) and Pd(PPh3)4 (47.8 mg, 0.042 mmol) in DMF (3 mL) and H2O (1 mL) was heated at 180° C. under microwave condition for 20 minutes. The mixture was diluted with EtOAc and washed with saturated aqueous NaHCO3, dried (Na2SO4), filtered, and concentrated to afford the title compound: MS (APCI) M/Z 229 (M+H)+.

reactant | 4-chlorophthalazin-1(2H)-one | 0.831 mmol, 150 mg | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.831 mmol, 174 mg | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | Na2CO3 | 2.49 mmol, 164 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.042 mmol, 47.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3,6-dihydro-2H-pyran-4-yl)phthalazin-1(2H)-one | O1CCC(=CC1)C1=NNC(C2=CC=CC=C12)=O | C13H12N2O2
